US07514450B2
(±)5-(4-Benzoylamino-phenyl)-furan-2-carboxylic acid(1-aza-bicyclo[2.2.2]oct-3-yl)-amide hydrochloric acid salt (Compound 1)
A mixture of 5-(4-amino-phenyl)-furan-2-carboxylic acid(1-aza-bicyclo[2.2.2]oct-3-yl)-amide (0.155 g, 0.5 mmol), dichloromethane (25 ml) and benzoyl chloride (0.117 ml, 1.0 mmol) was stirred for 3 hours at room temperature. The crude mixture was filtered. The product was precipitated from the filtrate by adding diethyl ether (5 ml) as hydrochloric acid salt. Yield 56 mg (25%). M.p. 215° C.

reactant | 5-(4-amino-phenyl)-furan-2-carboxylic acid(1-aza-bicyclo[2.2.2]oct-3-yl)-amide | 0.5 mmol, 0.155 g | N12CC(C(CC1)CC2)NC(=O)C=2OC(=CC2)C2=CC=C(C=C2)N | C18H21N3O2
reactant | benzoyl chloride | 1.0 mmol, 0.117 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (±)5-(4-Benzoylamino-phenyl)-furan-2-carboxylic acid(1-aza-bicyclo[2.2.2]oct-3-yl)-amide hydrochloric acid salt | Cl.N12CC(C(CC1)CC2)NC(=O)C=2OC(=CC2)C2=CC=C(C=C2)NC(C2=CC=CC=C2)=O | InChI=1S/C25H25N3O3.ClH/c29-24(19-4-2-1-3-5-19)26-20-8-6-18(7-9-20)22-10-11-23(31-22)25(30)27-21-16-28-14-12-17(21)13-15-28;/h1-11,17,21H,12-16H2,(H,26,29)(H,27,30);1H
